US08445480B2
Step D. 3-Amino-4-hydroxy-5-isopropylbenzonitrile
To a solution of 4-hydroxy-3-isopropenyl-5-nitrobenzonitrile (4.135 g, 20.25 mmol) in ethyl acetate (100 ml) was added 1.2 g of Pd/C. The resulting mixture was degassed and flushed with nitrogen, and then degassed and flushed with hydrogen using a double balloon. The reaction was stirred under hydrogen for 14 h, and then diluted with ethyl acetate, filtered through a pad of Celite and concentrated. The residue was purified by flash column chromatography using a Horizon Biotage, 65i Si column, eluting with 1 column volume of dichloromethane, followed by a linear gradient of ethyl acetate in dichloromethane from 0% to 50% over 10 column volume. It was then repurified by flash column chromatography using a Horizon Biotage, 65i Si column, eluting with 1 column volume of 5% ethyl acetate in hexanes, followed by a linear gradient of ethyl acetate in hexanes from 5% to 100% over 10 column volumes to afford the title compound. Mass spectrum (ESI) 177.4 (M+1).

reactant | 4-hydroxy-3-isopropenyl-5-nitrobenzonitrile | 20.25 mmol, 4.135 g | OC1=C(C=C(C#N)C=C1[N+](=O)[O-])C(=C)C | C10H8N2O3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 1.2 g | [Pd] | Pd
product | 3-Amino-4-hydroxy-5-isopropylbenzonitrile | NC=1C=C(C#N)C=C(C1O)C(C)C | C10H12N2O
